US08541445B2
Step 5: 2-(2-bromothiazol-4-yl)ethanenitrile
A solution of 2-bromo-4-(iodomethyl)thiazole (2.11 g, 6.942 mmol) in DMSO (15 mL) under nitrogen was treated with sodium cyanide (345.0 mg, 7.039 mmol) and allowed to stir for 40 minutes. The reaction was diluted with diethyl ether/water and the layers separated, the aqueous was extracted further with ether (2×) and the combined organics washed with brine, dried (Na2SO4), filtered and concentrated. The resultant residue was purified by column chromatography (3:1 Petroleum ether/EtOAc) to afford the product as a white solid (1.20 g, 86% Yield). 1H NMR (CDCl3, 400 MHz) δ 3.91 (2H, s), 7.31 (1H, s); MS (ES+) 204.95

reactant | 2-bromo-4-(iodomethyl)thiazole | 6.942 mmol, 2.11 g | BrC=1SC=C(N1)CI | C4H3BrINS
reactant | sodium cyanide | 7.039 mmol, 345.0 mg | [C-]#N.[Na+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | diethyl ether water | C(C)OCC.O
product | 2-(2-bromothiazol-4-yl)ethanenitrile | 1.20 g, 86% Yield | BrC=1SC=C(N1)CC#N | C5H3BrN2S
